Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][H:12]>>[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][H:12].[O:1],7.80244660134
[C:1]#[C:2][C:3](=[O:4])[H:5].[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C@@:3]([O:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-0.593608262329
[H:1][C:2]#[C:4][C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:3][C:6][H:5]>>[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-5.44195728097
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],-0.818244260002
[H:1][O:2]/[C:3]([H:4])=[C:6]/[O:7][C:8][C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8][C:9]([H:10])([H:11])[H:12],-2.37220889661
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:3][H:4].[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],1.26858002197
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10]>>[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10].[H:1][C:2]=[O:3],0.698283322059
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:7].[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],1.98891404291
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([O:9][H:10])[O:11][H:12]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])[O:9][H:10].[O:11][H:12],4.58727636739
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10]>>[C:1][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10].[C:2]#[C:3],7.75870086102
[C:3]([H:4])([H:5])=[C:6]=[C:7]([H:8])[H:9].[O:1]=[O:2]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9],1.38393275911
[H:1][C:2][O:3][C:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:7]([H:8])[H:9].[H:1][C:2][O:3][C:4]#[C:5][H:6],4.46377569246
[C:3]([H:4])#[C:5][O:6][C:7]([H:8])=[C:9][H:10].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])=[C:9][H:10],-4.48712287158
[C:3]([H:4])(=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],-2.7038832109500004
[C:7]([H:8])[H:9].[H:1][C:2]#[C:3][O:4][C:5]#[C:6]>>[H:1][C:2]#[C:3][O:4][C:5]#[C:6][C:7]([H:8])[H:9],-7.18691661592
[C:1]#[C:2][H:3].[C:4]([O:5][C:6][H:7])=[C:8]([H:9])[H:10]>>[C:1]=[C:2]([H:3])[C:4]([O:5][C:6][H:7])=[C:8]([H:9])[H:10],-4.09344056017
[O:1]=[C:2]=[C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9]>>[H:5].[O:1]=[C:2]=[C:3][C:4][O:6][C:7]([H:8])[H:9],4.29645049977
[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])[C:5]([H:6])=[O:7]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10],-3.42980289376
[H:1][C:2]([H:3])[C:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([O:6][C:7]([H:8])([H:9])[H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:5],1.41748481455
[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]#[C:4][H:5].[O:1]=[C:2][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],5.16388060907
[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7][H:8])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C@:3]([H:4])(/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.5996642275
[C:8]([H:9])([H:10])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[H:7]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20],-3.91150497017
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])([H:6])=[C:7]([H:8])[H:9].[O:1]=[C:2]([O:3])[C:10]([H:11])([H:12])[H:13],1.15515732088
[H:1][C:2][O:3][C:4][O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:5]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-3.35268364476
[C:3]#[C:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]>>[H:1][C:2]=[C:3]=[C:4][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-7.45342024012
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11],4.087907705319998
[C:1]#[C:2].[C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-5.164870377850001
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][C:12]([H:13])[H:14],4.4809581904
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4][O:5][C:6]#[C:7][H:8]>>[H:1][C:2]([H:3])=[C:4][O:5]/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-2.1525850839
